US09120776B2
5-(4-cyano-3-methylphenoxy)-N-(9-ethyl-9H-carbazol-3-yl)-3-methylpentanamide
To a solution of N-(9-ethyl-9H-carbazol-3-yl)-5-hydroxy-3-methylpentanamide (0.34 g, 1.05 mmol) in DMF (8.0 mL) was added potassium-t-butoxide (0.258 g, 2.31 mmol) under argon atmosphere. The mixture was stirred at room temperature for 15 min, and 4-fluoro-2-methylbenzonitrile (0.212 g, 1.57 mmol) was added thereto. The reaction solution was stirred at room temperature for 14 hr, and ethyl acetate (80 mL) was added thereto. The organic layer was washed with cold water (2×20 mL) and saturated brine (2×20 mL), and dried, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (solvent gradient; 20 to 30% ethyl acetate/hexane) to give the title compound (0.16 g, 35%) as a white powder.

reactant | N-(9-ethyl-9H-carbazol-3-yl)-5-hydroxy-3-methylpentanamide | 1.05 mmol, 0.34 g | C(C)N1C2=CC=CC=C2C=2C=C(C=CC12)NC(CC(CCO)C)=O | C20H24N2O2
reactant | potassium-t-butoxide | 2.31 mmol, 0.258 g | CC(C)([O-])C.[K+]
reactant | 4-fluoro-2-methylbenzonitrile | 1.57 mmol, 0.212 g | FC1=CC(=C(C#N)C=C1)C | C8H6FN
reactant | ethyl acetate | 80 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 8.0 mL | CN(C)C=O | C3H7NO
product | 5-(4-cyano-3-methylphenoxy)-N-(9-ethyl-9H-carbazol-3-yl)-3-methylpentanamide | 0.16 g, 35% | C(#N)C1=C(C=C(OCCC(CC(=O)NC=2C=CC=3N(C4=CC=CC=C4C3C2)CC)C)C=C1)C | C28H29N3O2
